US04254108
1,3-Dioxo-1H-benz[de]isoquinoline-2(3H)-acetic Acid Ethyl Ester (III, Z=H and R=C2H5)
A mechanically-stirred mixture of 1,3-dioxo-1H-benz[de]isoquinoline-2(3H)-acetic acid (125.0 g, 0.49 mole), p-toluenesulfonic acid hydrate (9.3 g, 0.049 mole), anhydrous pure ethanol (226 g, 288 ml, 0.49 mole) and dry toluene (750 ml) was heated at reflux for 16 hr in a Soxhlet apparatus in which the thimble was filled with hydrated alkali-aluminium silicate (3 A Molecular Sieves). The title compound was crystallized from the reaction mixture after cooling to room temperature. The crystals were collected and a second crop of crystals were obtained from the mother liquors. Recrystallization of the two crops of crystals from ethyl acetate gave the title compound; mp 160°-162° C.; UV (MeOH) 232, 332 and 341 nm, ε=48,613, 13,470 and 12,920, respectively; IR (CHCl3) 1745, 1705 and 1665 cm-1 ; Anal. Calc'd.: C, 67.84%; H, 4.63%; N, 4.94%; Found: C, 67.89%; H, 4.60 %; N, 4.87%.

reactant | 1,3-dioxo-1H-benz[de]isoquinoline-2(3H)-acetic acid | 0.49 mole, 125.0 g | O=C1N(C(C2=C3C(C=CC=C13)=CC=C2)=O)CC(=O)O | C14H9NO4
reactant | p-toluenesulfonic acid hydrate | 0.049 mole, 9.3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethanol | 0.49 mole, 288 ml, 226 g | C(C)O | C2H6O
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-Dioxo-1H-benz[de]isoquinoline-2(3H)-acetic Acid Ethyl Ester | C(C)OC(CN1C(C2=CC=CC=3C2=C(C1=O)C=CC3)=O)=O | C16H13NO4
